US04925838
To a solution of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-1 (4-nitrobenzyloxycarbonyl)-2-(pyrrolidin-1-yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.35 g) in acetone (3.5 ml) was added methyl iodide (0.15 ml) at ambient temperature. The mixture was stirred for hours. The reaction mixture was evaporated in vacuo to give 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(1-methyl-1-pyrrolidinio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (0.35 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-1 (4-nitrobenzyloxycarbonyl)-2-(pyrrolidin-1-yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.35 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1CCCC1)C | C34H39N5O10S
reactant | methyl iodide | 0.15 ml | CI | CH3I
solvent | acetone | 3.5 ml | CC(=O)C | C3H6O
product | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(1-methyl-1-pyrrolidinio)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 0.35 g | [I-].O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C[N+]1(CCCC1)C)C | InChI=1S/C35H42N5O10S.HI/c1-21-30-29(22(2)41)33(42)37(30)31(34(43)49-19-23-6-10-25(11-7-23)38(45)46)32(21)51-28-16-27(18-40(3)14-4-5-15-40)36(17-28)35(44)50-20-24-8-12-26(13-9-24)39(47)48;/h6-13,21-22,27-30,41H,4-5,14-20H2,1-3H3;1H/q+1;/p-1/t21-,22-,27+,28+,29-,30-;/m1./s1
